US07253196B2
4-(2-(4-Methyl-3-nitrophenoxy)ethyl)morpholine
A mixture of 4-methyl-3-nitrophenol (1.53 g, 10 mmol.), 4-(2-chloroethyl)morpholine (2.79 g, 15 mmol), Cs2CO3 (9.78 g, 30 mmol) and NaI (145 mg, 1 mmol) in DMF (15 mL) was stirred for 3 h at 80° C. The reaction mixture was then cooled to room temperature, diluted with water, and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (4:1:0.05 CH2Cl2/EtOAc/MeOH) to give the title compound as an oil.

reactant | 4-methyl-3-nitrophenol | 10 mmol, 1.53 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | 4-(2-chloroethyl)morpholine | 15 mmol, 2.79 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | Cs2CO3 | 30 mmol, 9.78 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 1 mmol, 145 mg | [Na+].[I-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-(4-Methyl-3-nitrophenoxy)ethyl)morpholine | CC1=C(C=C(OCCN2CCOCC2)C=C1)[N+](=O)[O-] | C13H18N2O4
